US04540814
To a solution of 50 grams (0.26 mol) of 1,4-dimethoxynaphthalene, prepared according to the procedure of L. Fieser, in the Journal of the American Chemical Society, Volume 70, page 3165 (1948), in 500 ml glacial acetic acid is added 13.7 ml (0.26 mol) of bromine at room temperature. The mixture is stirred for 1 hour, and the solvent is removed under reduced pressure and the residue dissolved in ether. The resulting solution is carefully washed twice with sodium bicarbonate, the organic layer separated, dried over sodium sulfate and the solvent removed. Distillation of the residue gave 63.4 grams (81% of theoretical yield) of liquid 2-bromo-1,4-dimethoxy-naphthalene (boiling 200°-210° at 0.1 mm Hg). The product has a nuclear magnetic resonance spectrum consistant with the expected structure and has peaks expressed in parts per million relative to tetramethylsilane at 8.0 (m,2H), 7.4(m,2H), 6.9(s,1H), 3.9(d,6H).

reactant | 1,4-dimethoxynaphthalene | 0.26 mol, 50 grams | COC1=CC=C(C2=CC=CC=C12)OC | C12H12O2
reactant | bromine | 0.26 mol, 13.7 ml | BrBr | Br2
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-1,4-dimethoxy-naphthalene | BrC1=C(C2=CC=CC=C2C(=C1)OC)OC | C12H11BrO2
